US06071899
A solution of 4-methylthioazetidin-2-one (Clauss K, Grimm D, Prossel G, Anal, 1974, 539) (1.17 g, 0.01 mol) in THF (lOml) was added dropwise over 5 minutes to a suspension of sodium hydride (0.42 g, 0.01 mol) in dry THF (30 ml) under a nitrogen atmosphere at -10° C. The mixture was stirred for 15 minutes whilst keeping the temperature between -5 and -10° C. 1-Bromo-4-phenylbutan-2-one (Tetrahedron, 1970, 26, 5611) (2.27 g, 0.01 mol) in dry THF (10 ml) was added over 5 minutes at -10° C. The resultant mixture was stirred at room temperature for 1 hour then poured onto ice/water (100 g), filtered through Hyflo, washed with brine and separated. The organic extract was dried and evaporated under reduced pressure to a yellow oil. This was purified by flash chromatography on silica gel using petroleum ether/ethyl acetate 2:1, to give 4-methylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one as a colourless oil (1.08 g, 41%).

reactant | 4-methylthioazetidin-2-one | 0.01 mol, 1.17 g | CSC1CC(N1)=O | C4H7NOS
reactant | sodium hydride | 0.01 mol, 0.42 g | [H-].[Na+]
reactant | 1-Bromo-4-phenylbutan-2-one | 0.01 mol, 2.27 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-methylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one | 1.08 g, 41% | CSC1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C14H17NO2S
